US05059609
4-(4-Methoxyphenoxy)butyric Acid
4-Methoxyphenol was added to a solution of NaOC2H5 made by dissolving 2.3 g of Na in 50 ml ethanol. After 5 minutes, gamma-butyrolactone was added and the mixture heated at reflux overnight. Ethanol was distilled off and the residue heated at 155° C. overnight, then cooled, diluted with water and acidified to pH 3 with dilute hydrochloric acid. The product was collected by filtration, 19.5 g, m.p. 103°-104° C.

reactant | 4-Methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | NaOC2H5 | CC[O-].[Na+]
reactant | gamma-butyrolactone | C1(CCCO1)=O | C4H6O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(4-Methoxyphenoxy)butyric Acid | COC1=CC=C(OCCCC(=O)O)C=C1 | C11H14O4
